US05482943
A mixture of 4.8 parts of 3-(2-bromoethyl)-2,9-dimethyl-4H-pyrido[1,2-a]pyrimidin-4-one, 3.9 parts of 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole monohydrochloride, 10 parts of sodium carbonate, a few crystals of potassium iodide and 144 parts of 4-methyl-2-pentanone was stirred overnight at room temperature. After cooling, the reaction mixture was poured into water. The organic layer was separated, dried, filtered and evaporated. The residue was purified by column chromatography (silica gel; CH2Cl2 /CH3OH 95:5). The eluent of the desired fraction was evaporated and the residue was crystallized from acetonitrile, yielding 3 parts (47.6%) of 3-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-2,9-dimethyl-4H-pyrido[1,2-a]-pyrimidin-4-one; mp. 199.9° C. (comp. 1).

reactant | 3-(2-bromoethyl)-2,9-dimethyl-4H-pyrido[1,2-a]pyrimidin-4-one | BrCCC1=C(N=C2N(C1=O)C=CC=C2C)C | C12H13BrN2O
reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole monohydrochloride | Cl.FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 3-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-2,9-dimethyl-4H-pyrido[1,2-a]-pyrimidin-4-one | 47.6% | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCC2=C(N=C3N(C2=O)C=CC=C3C)C)C=C1 | C24H25FN4O2
